US07022730B2
The compound Bis(2-methylindol-3-yl)-(1,1′-biphenyl-4-yl)methane was prepared following procedure A, starting from 2-methyl indole and 4-biphenyl carboxaldehyde. LC: Tr 2.71 min, MS: 427 (M+H)+

reactant | 2-methyl indole | CC=1NC2=CC=CC=C2C1 | C9H9N
reactant | 4-biphenyl carboxaldehyde | C1(=CC=C(C=C1)C=O)C1=CC=CC=C1 | C13H10O
product | Bis(2-methylindol-3-yl)-(1,1′-biphenyl-4-yl)methane | CC=1NC2=CC=CC=C2C1C(C1=CC=C(C=C1)C1=CC=CC=C1)C1=C(NC2=CC=CC=C12)C | C31H26N2
